US07576115B2
1) Synthesis of 1-[5-(4-ethylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone
2-Oxopropanal methylhydrazone (13.7 mmol, 1.37 g) and (4-ethylphenyl)(oxo)acetaldehyde (13.5 mmol, 2.19 g) synthesized in Reference Synthetic Example 11 were dissolved in acetic acid (30 mL) and stirred at 100° C. for 0.6 hours. Then, the solvent was evaporated, and the residue was dried by means of a vacuum pump and purified by silica gel column chromatography (n-hexane/ethyl acetate=3/1), then by silica gel thin layer chromatography (chloroform) and by silica gel thin layer chromatography (n-hexane/ethyl acetate=7/2) to give the desired product as a brown solid (255 mg, yield 8%).

reactant | 2-Oxopropanal methylhydrazone | 13.7 mmol, 1.37 g | CNN=CC(C)=O | C4H8N2O
reactant | (4-ethylphenyl)(oxo)acetaldehyde | 13.5 mmol, 2.19 g | C(C)C1=CC=C(C=C1)C(C=O)=O | C10H10O2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | n-hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 1-[5-(4-ethylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone | 255 mg, yield 8% | C(C)C1=CC=C(C=C1)C1=C(C(=NN1C)C(C)=O)O | C14H16N2O2
